US07846925B2
Step III: 2,3-Dihydro-benzo[1,4]oxazine-4,6-dicarboxylic acid 4-tert-butyl ester 6-methyl ester
To a 500 ml three-necked flask containing 3,4-Dihydro-2H-benzo[1,4]oxazine-6-carboxylic acid methyl ester*hydrochloride in suspension in THF (145 ml; 10 vols) under N2, DIEA (27 ml, 2.5 eq.) was added in one portion at RT and partial solubilisation was observed. Boc anhydride/(16.4 g, 1.2 eq.) was added in one portion and the reaction was stirred at 65° C. for 5 days. During that time several small portions of 0.2 eq. of Boc2O and DIEA were added. THF was removed under vacuum and the residue was taken up in DCM 150 ml The organic phase was washed with a saturated solution of NaHCO3 and then with brine. After drying over MgSO4 and filtration, volatiles were removed under vacuum and the residue was recrystallised from EtOH (80 ml) to give cream crystals (14.8 g, 76%).

reactant | 3,4-Dihydro-2H-benzo[1,4]oxazine-6-carboxylic acid methyl ester | COC(=O)C=1C=CC2=C(NCCO2)C1 | C10H11NO3
reactant | DIEA | 27 ml, 2.5 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | Boc anhydride | 16.4 g, 1.2 eq. | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Boc2O | 0.2 eq. | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 145 ml | C1CCOC1 | C4H8O
product | 2,3-Dihydro-benzo[1,4]oxazine-4,6-dicarboxylic acid 4-tert-butyl ester 6-methyl ester | 14.8 g, 76% | COC(=O)C=1C=CC2=C(N(CCO2)C(=O)OC(C)(C)C)C1 | C15H19NO5
